US08455477B2
3-bromo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (30 mg, 0.098 mmol), 4-aminopyridine (18 mg, 0.20 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.059 ml, 0.39 mmol), molybdenum hexacarbonyl (0.013 ml, 0.098 mmol), tri-(tert-butyl)phosphonium hydrogen tetrafluoroborate salt (3.0 mg, 0.01 mmol), trans-di-mu-acetatobis[2-(di-o-tolylphosphino)benzyl]dipalladium (II) (4.6 mg, 0.0049 mmol) were added to dioxane (3.9 ml). The mixture was sparged with argon for 3 minutes and heated to 100° C. After 16 h, the reaction mixture was cooled and purified directly by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-N-pyridin-4-ylpyrazolo[1,5-a]pyridine-3-carboxamide. 1H NMR (500 MHz, DMSO-d6) δ 10.30 (s, 1H); 8.81 (s, 1H); 8.44 (d, 2H); 8.37 (d, 2H); 8.09 (s, 1H); 7.67 (d, 2H); 7.24 (s, 1H); 4.10 (s, 3H); 3.88 (s, 3H). LRMS (ESI) calculated for C18H17N6O2 [M+H]+, 349.1 found 349.0.

reactant | 3-bromo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.098 mmol, 30 mg | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C12H11BrN4O
reactant | 4-aminopyridine | 0.20 mmol, 18 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.39 mmol, 0.059 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | dioxane | 3.9 ml | O1CCOCC1 | C4H8O2
catalyst | molybdenum hexacarbonyl | 0.098 mmol, 0.013 ml | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
catalyst | trans-di-mu-acetatobis[2-(di-o-tolylphosphino)benzyl]dipalladium (II) | 0.0049 mmol, 4.6 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-N-pyridin-4-ylpyrazolo[1,5-a]pyridine-3-carboxamide | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C(=O)NC2=CC=NC=C2 | C18H16N6O2
